US06534546B1
Synthesis of 1-(2-methoxy-5-nitrophenyl)ethanol
To a solution of 2-methoxy-5-nitrobenzaldehyde (450 mg) in toluene (30 ml), a solution of trimethylaluminum in hexane (3.0 ml) was added dropwise under ice cooling. After stirring at room temperature for 1 h, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed successively with water and a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=2:1) to give 385 mg of the titled compound (yield, 79%).

reactant | 2-methoxy-5-nitrobenzaldehyde | 450 mg | COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | trimethylaluminum | C[Al](C)C
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 3.0 ml | CCCCCC | C6H14
product | 1-(2-methoxy-5-nitrophenyl)ethanol | 385 mg, 79% | COC1=C(C=C(C=C1)[N+](=O)[O-])C(C)O | C9H11NO4
